US07109209B2
f) 1-(4-Fluorophenyl)-2-trimethylsilylacetylene.
4-Fluoroiodobenzene (112 mL, 0.97 mol) and triethylamine (176 mL, 1.26 mol) are dissolved in dry tetrahydrofuran (1.2 L) and nitrogen gas was bubbled through the solution for about 20 min. Copper (I) iodide (1.08 g, 5.7 mmol) and bis(triphenyphosphine)palladium dichloride (2.15 g, 3 mmol) are added and then trimethylsilylacetylene (178 mL 1.3 mol) was added dropwise over about 40 min with the temperature being maintained at about 23° C. A large amount of precipitate forms (presumably Et3NHCl) which necessitates mechanical stirring. Following complete addition of the trimethylsilylacetylene the mixture was allowed to stir at room temperature for about 18 hours. The mixture was filtered and the solid washed with cyclohexane. The combined filtrates are concentrated under reduce pressure to give a brown oil. Application of this oil to a pad of silica gel followed by elution with cyclohexane gave a yellow solution. Removal of the solvent gave the title compound as a yellow oil; 182.8 g (95%).

reactant | 4-Fluoroiodobenzene | 0.97 mol, 112 mL | FC1=CC=C(C=C1)I | C6H4FI
reactant | triethylamine | 1.26 mol, 176 mL | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 1.3 mol, 178 mL | C[Si](C)(C)C#C | C5H10Si
solvent | tetrahydrofuran | 1.2 L | O1CCCC1 | C4H8O
catalyst | Copper (I) iodide | 5.7 mmol, 1.08 g | [Cu]I
catalyst | bis(triphenyphosphine)palladium dichloride | 3 mmol, 2.15 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4-Fluorophenyl)-2-trimethylsilylacetylene | FC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13FSi
